US04207243
27 parts by weight of iron-III chloride and 149 parts by weight of 85.5 percent strength α-acetoxypropionaldehyde are added to a solution of 116 parts by weight of methyl acetoacetate in 120 parts by weight of methanol at a rate such that the mixture rises to the boil. The methanol is distilled off under atmospheric pressure and the product is then distilled under reduced pressure. 106.2 parts by weight of 2,5-dimethylfuran-3-carboxylic acid methyl ester, of boiling point 89° C./20 mbar, are obtained.

reactant | α-acetoxypropionaldehyde | C(C)(=O)OC(C=O)C | C5H8O3
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
catalyst | iron | [Fe] | Fe
solvent | methanol | CO | CH4O
product | 2,5-dimethylfuran-3-carboxylic acid methyl ester | COC(=O)C1=C(OC(=C1)C)C | C8H10O3
